.subckt fdpcbq_x1 Q CK D RS VDD VSS
XFDPCBQ_PA0 fdpcbq_and_n D VDD VDD pmos w=2u l=100n
XFDPCBQ_PB0 fdpcbq_and_n RS VDD VDD pmos w=2u l=100n
XFDPCBQ_NB0 fdpcbq_and_n RS nmid_FDPCBQ_0 VSS nmos w=1u l=100n
XFDPCBQ_NA0 nmid_FDPCBQ_0 D VSS VSS nmos w=1u l=100n
XFDPCBQ_I_P0 fdpcbq_and fdpcbq_and_n VDD VDD pmos w=2u l=100n
XFDPCBQ_I_N0 fdpcbq_and fdpcbq_and_n VSS VSS nmos w=1u l=100n
XFDPCBQ_ck_P0 FDPCBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFDPCBQ_ck_N0 FDPCBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFDPCBQ_m_in_P FDPCBQ_m_n1 CK fdpcbq_and VDD pmos w=2u l=100n
XFDPCBQ_m_in_N FDPCBQ_m_n1 FDPCBQ_ck_b fdpcbq_and VSS nmos w=1u l=100n
XFDPCBQ_m_i1_P0 FDPCBQ_m_n2 FDPCBQ_m_n1 VDD VDD pmos w=2u l=100n
XFDPCBQ_m_i1_N0 FDPCBQ_m_n2 FDPCBQ_m_n1 VSS VSS nmos w=1u l=100n
XFDPCBQ_m_i2_P0 FDPCBQ_m_n1 FDPCBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDPCBQ_m_i2_N0 FDPCBQ_m_n1 FDPCBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDPCBQ_m_fb_P FDPCBQ_m_n1 FDPCBQ_ck_b FDPCBQ_m_n2 VDD pmos w=2u l=100n
XFDPCBQ_m_fb_N FDPCBQ_m_n1 CK FDPCBQ_m_n2 VSS nmos w=1u l=100n
XFDPCBQ_m_o_P0 FDPCBQ_qm FDPCBQ_m_n2 VDD VDD pmos w=2u l=100n
XFDPCBQ_m_o_N0 FDPCBQ_qm FDPCBQ_m_n2 VSS VSS nmos w=1u l=100n
XFDPCBQ_s_in_P FDPCBQ_s_n1 FDPCBQ_ck_b FDPCBQ_qm VDD pmos w=2u l=100n
XFDPCBQ_s_in_N FDPCBQ_s_n1 CK FDPCBQ_qm VSS nmos w=1u l=100n
XFDPCBQ_s_i1_P0 FDPCBQ_s_n2 FDPCBQ_s_n1 VDD VDD pmos w=2u l=100n
XFDPCBQ_s_i1_N0 FDPCBQ_s_n2 FDPCBQ_s_n1 VSS VSS nmos w=1u l=100n
XFDPCBQ_s_i2_P0 FDPCBQ_s_n1 FDPCBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDPCBQ_s_i2_N0 FDPCBQ_s_n1 FDPCBQ_s_n2 VSS VSS nmos w=1u l=100n
XFDPCBQ_s_fb_P FDPCBQ_s_n1 CK FDPCBQ_s_n2 VDD pmos w=2u l=100n
XFDPCBQ_s_fb_N FDPCBQ_s_n1 FDPCBQ_ck_b FDPCBQ_s_n2 VSS nmos w=1u l=100n
XFDPCBQ_s_o_P0 Q FDPCBQ_s_n2 VDD VDD pmos w=2u l=100n
XFDPCBQ_s_o_N0 Q FDPCBQ_s_n2 VSS VSS nmos w=1u l=100n
.ends fdpcbq_x1
